US07226917B2
1.3. (1-Methyl-2-pyrrolidinyl)(phenyl)methanone O-benzyloxime
1.2 g (4.28 mmol) of phenyl(2-pyrrolidinyl)methanone O-benzyloxime in 4 ml of a mixture (1/1) of formic acid and aqueous 37% formaldehyde are introduced into a 50 ml round-bottomed flask equipped with a magnetic stirrer, and the mixture is refluxed for 16 hours.

reactant | phenyl(2-pyrrolidinyl)methanone O-benzyloxime | 4.28 mmol, 1.2 g | C(C1=CC=CC=C1)ON=C(C1NCCC1)C1=CC=CC=C1 | C18H20N2O
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | (1-Methyl-2-pyrrolidinyl)(phenyl)methanone O-benzyloxime | C(C1=CC=CC=C1)ON=C(C1=CC=CC=C1)C1N(CCC1)C | C19H22N2O
